US04695575
To a stirred mixture of 3.88 parts of 2-amino-N-[4-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]butyl]benzamide, 2 parts of N,N-diethylethanamine and 90 parts of tetrahydrofuran were added dropwise 1.64 parts of trichloromethyl carbonochloridate. Upon completion, stirring was continued overnight. Another portion of 1.6 parts of B was added and the whole was stirred ovrnight. The precipitate was filtered off and the filtrate was evaporated. Water was added to the residue. The solution was treated with ammonium hydroxide; The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 3 parts (73%) of 3-[4-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]butyl]-2,4(1H,3H)-quinazolinedione; mp. 185.5° C. (490).

reactant | 2-amino-N-[4-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]butyl]benzamide | NC1=C(C(=O)NCCCCN2CCC(CC2)CC2=NC3=C(N2CC=2OC=CC2)C=CC=C3)C=CC=C1 | C29H35N5O2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl carbonochloridate | C(OC(Cl)(Cl)Cl)(=O)Cl | C2Cl4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[4-[4-[[1-(2-furanylmethyl)-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]butyl]-2,4(1H,3H)-quinazolinedione | 73% | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCCCN2C(NC1=CC=CC=C1C2=O)=O | C30H33N5O3
